US09062056B2
(R)-3-(2-Cyclopropyl-5-nitro-pyrimidin-4-ylamino)-3-phenyl-propionic acid ethyl ester
To a solution of 4-Chloro-2-cyclopropyl-5-nitro-pyrimidine (597 mg, 3 mmol) in DMF (10 ml) was added (R)-3-Amino-3-phenyl-propionic acid ethyl ester hydro chloride (582 mg, 3 mmol). The mixture was stirred on ice for 5 minutes the DIPEA (580 mg, 4.5 mmol) was added. The solution was stirred at room temperature for one hour. TLC showed disappearance of the starting material. The reaction mixture was diluted with ethyl acetate, washed with water, dried over MgSO4, filtered, evaporated to dryness to give oil, which was used as such for the next step.

reactant | 4-Chloro-2-cyclopropyl-5-nitro-pyrimidine | 3 mmol, 597 mg | ClC1=NC(=NC=C1[N+](=O)[O-])C1CC1 | C7H6ClN3O2
reactant | (R)-3-Amino-3-phenyl-propionic acid ethyl ester hydro chloride | 3 mmol, 582 mg | Cl.C(C)OC(C[C@H](C1=CC=CC=C1)N)=O
reactant | DIPEA | 4.5 mmol, 580 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(2-Cyclopropyl-5-nitro-pyrimidin-4-ylamino)-3-phenyl-propionic acid ethyl ester | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=NC=C1[N+](=O)[O-])C1CC1)=O | C18H20N4O4
